US05703075
Preparation of 8-methyl-7-(phenylmethoxy) -2-[4-(2-pyridinyl)-1-piperazinyl]-4H-benzopyran-4-one, Compound 28
Part B: 8-Methyl-7-(phenylmethoxy)-2-mercapto-4H-1-benzopyran-4-one (2.0 g, 6.7 mmol), 1-(2-pyridyl)piperazine (1.19 g, 7.3 mmol) and TsOH (25 mg) is added to toluene and heated at reflux for 20 hours. The reaction temperature is lowered to room temperature and the toluene removed in vacuo. The resulting dark oil is diluted with EtOAc and the resulting crystals collected on a filter to afford 2.42 g of product. MP 148°-9° C.

reactant | 8-Methyl-7-(phenylmethoxy)-2-mercapto-4H-1-benzopyran-4-one | 6.7 mmol, 2.0 g | CC1=C(C=CC=2C(C=C(OC21)S)=O)OCC2=CC=CC=C2 | C17H14O3S
reactant | 1-(2-pyridyl)piperazine | 7.3 mmol, 1.19 g | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
catalyst | TsOH | 25 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 8-methyl-7-(phenylmethoxy) -2-[4-(2-pyridinyl)-1-piperazinyl]-4H-benzopyran-4-one | 2.42 g | CC1=C(C=CC=2C(C=C(OC21)N2CCN(CC2)C2=NC=CC=C2)=O)OCC2=CC=CC=C2 | C26H25N3O3
